US08067638B2
Preparation of 4-(1,1,2,3,3,3-hexafluoropropoxy)-nitrobenzene
To a solution of 4.63 g of p-nitrophenol and 0.56 g of potassium hydrate added to 100 ml of N,N-dimethylformamide blowed hexafluoropropene at room temperature, and then the solution was stirred at 50° C. for 1 hour. Next, ethyl acetate and water were introduced in the reaction solution for separating the organic phase. The organic phase was dried over anhydrous sodium sulfate and the solvent was removed under a reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:EtOAc=20:1) to obtain 3.81 g of the desired product (Yield: 42%) as a yellow oil.

reactant | p-nitrophenol | 4.63 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | potassium hydrate | 0.56 g | O.[K]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1,1,2,3,3,3-hexafluoropropoxy)-nitrobenzene | 3.81 g, Yield: 42% | FC(C(C(F)(F)F)F)(OC1=CC=C(C=C1)[N+](=O)[O-])F | C9H5F6NO3
